US04414221
3,6-Bis(2-chlorophenyl)-4-phenyl-4,5-dihydropyridazine
To styrene (2.34 ml) was added 3,6-bis(2-chlorophenyl)-1,2,4,5-tetrazine (2.6 g) in toluene (20 ml). The mixture was heated to reflux for 3 hours, and was then cooled. The solid which separated was filtered off and dried to yield 2.6 g of the desired product, mp 151°-153° C.

reactant | styrene | 2.34 ml | C=CC1=CC=CC=C1 | C8H8
reactant | 3,6-bis(2-chlorophenyl)-1,2,4,5-tetrazine | 2.6 g | ClC1=C(C=CC=C1)C=1N=NC(=NN1)C1=C(C=CC=C1)Cl | C14H8Cl2N4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-Bis(2-chlorophenyl)-4-phenyl-4,5-dihydropyridazine | 2.6 g | ClC1=C(C=CC=C1)C1=NN=C(CC1C1=CC=CC=C1)C1=C(C=CC=C1)Cl | C22H16Cl2N2
